US07459263B2
First, 2-[(3-methoxyphenyl)thio]benzoic acid was prepared. A mixture of thiosalicylic acid (1.5 g, 9.7 mmol), 3-methoxyiodobenzene (4.6 g, 19.4 mmol), copper (I) iodide (0.07 g, 0.4 mmol), potassium carbonate (4.0 g, 29.2 mmol), and N,N-dimethylformamide (25 mL) was heated at reflux for 2 h and then cooled to ambient. The reaction mixture was diluted with ether, washed twice with 10% aqueous HCl, and dried (Na2SO4). The solvent is removed at reduced pressure to deposit a brown solid. The product was purified by recrystallization from heptane to provide 1.0 g (40% of theory) of 2-[(3-methoxyphenyl)thio]benzoic acid as a tan solid. 1H NMR (CDCl3): δ 3.80 (s, 3H), 6.90 (d, 1H), 7.00 (d, 1H), 7.25 (m, 5H), 8.11 (d, 1H).

reactant | thiosalicylic acid | 9.7 mmol, 1.5 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 3-methoxyiodobenzene | 19.4 mmol, 4.6 g | COC=1C=C(C=CC1)I | C7H7IO
reactant | potassium carbonate | 29.2 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | copper (I) iodide | 0.4 mmol, 0.07 g | [Cu]I
product | 2-[(3-methoxyphenyl)thio]benzoic acid | 1.0 g, 40% | COC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
